US04070374
0.1 g palladium acetate, 0.24 g triphenylphosphine, 7.9 g bromobenzene, 7.0 g 2-methyl-3-penten-2-ol, 1.3 g trilaurylamine and 5 g sodium bicarbonate were heated for 4 hours at 130° in 20 ml dimethlyformamide under nitrogen while stirring vigorously. 1-Phenyl-3-methyl-1-penten-3-ol was obtained as product.

reactant | triphenylphosphine | 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromobenzene | 7.9 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 2-methyl-3-penten-2-ol | 7.0 g | CC(C)(C=CC)O | C6H12O
reactant | trilaurylamine | 1.3 g | C(CCCCCCCCCCC)N(CCCCCCCCCCCC)CCCCCCCCCCCC | C36H75N
reactant | sodium bicarbonate | 5 g | C([O-])(O)=O.[Na+]
solvent | dimethlyformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-Phenyl-3-methyl-1-penten-3-ol | C1(=CC=CC=C1)C=CC(CC)(O)C | C12H16O
